US05232940
A solution of 2,6-dichloro-4-trifluoromethylphenylhydrazine (3.8 g) and 1,1-dicyano-2-cyclopropyl-2-methoxyethylene (2.23 g) in methanol (30 ml) was stirred and treated with sodium hydride (80%, 30 mg). After 4 hours the solution was evaporated in vacuo and the residue was dissolved in ethyl acetate (40 ml), treated with charcoal and washed with water. The organic phase was evaporated in vacuo, the residual oil was dissolved in petroleum ether and crystals of 5-amino-4-cyano-3-cyclopropyl-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole, m.p. 197°-199° C., were obtained.

reactant | 2,6-dichloro-4-trifluoromethylphenylhydrazine | 3.8 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)NN | C7H5Cl2F3N2
reactant | 1,1-dicyano-2-cyclopropyl-2-methoxyethylene | 2.23 g | C(#N)C(=C(OC)C1CC1)C#N | C8H8N2O
reactant | sodium hydride | 30 mg | [H-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 5-amino-4-cyano-3-cyclopropyl-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C1CC1)C#N | C14H9Cl2F3N4
